US07576217B2
1-(6-Bromo-2-methyl-4-phenyl-quinolin-3-yl)-2,2-difluoro-ethanone
The title compound was prepared from (2-Amino-5-bromo-phenyl)-phenyl-methanone [example A16] and 1,1-difluoroacetylacetone according to the procedure of example 1, except that the residue was purified by chromatography on aminated silica gel with heptane/ethyl acetate (5:1). Yield: 36%. MS: m/z=377 (M).

reactant | (2-Amino-5-bromo-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=CC=C1 | C13H10BrNO
reactant | 1,1-difluoroacetylacetone | CC(=O)CC(=O)C(F)F | C5H6F2O2
product | 1-(6-Bromo-2-methyl-4-phenyl-quinolin-3-yl)-2,2-difluoro-ethanone | Yield: 36% | BrC=1C=C2C(=C(C(=NC2=CC1)C)C(C(F)F)=O)C1=CC=CC=C1 | C18H12BrF2NO
